US07902187B2
(R)-6-chloro-N4-(8-fluorochroman-4-yl)pyrimidine-2,4,5-triamine.
2,5-diamino-4,6-dichloropyrimidine (1.5 g, 8.37 mmol), (R)-8-fluorochroman-4-amine hydrochloride (see preparation below) (1.7 g, 8.37 mmol, 1 equiv.), sodium bicarbonate (2.46 g, 29.3 mmol, 3.5 equiv.) and 1-butanol (30 mL) were heated together at 150° C. in a sealed tube. After 3 days, when the reaction appeared to be complete (by HPLC), the reaction mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was purified by flash chromatography (silica gel, elution with 1/1 ethyl acetate/methylene chloride) to give 2.01 g (78% yield) of the desired product as a yellow solid. 1H NMR (300 MHz, CD3OD) δ, ppm: 6.97-6.86 (m, 2H), 6.77-6.72 (m, 1H), 5.36 (m, 1H), 4.25 (m, 2H), 2.10 (m, 2H); MS (EI) m/z 310.1 (MH)+.

reactant | 2,5-diamino-4,6-dichloropyrimidine | 8.37 mmol, 1.5 g | NC1=NC(=C(C(=N1)Cl)N)Cl | C4H4Cl2N4
reactant | (R)-8-fluorochroman-4-amine hydrochloride | 8.37 mmol, 1.7 g, 1 equiv. | Cl.FC=1C=CC=C2[C@@H](CCOC12)N
reactant | sodium bicarbonate | 29.3 mmol, 2.46 g, 3.5 equiv. | C([O-])(O)=O.[Na+]
solvent | 1-butanol | 30 mL | C(CCC)O | C4H10O
product | (R)-6-chloro-N4-(8-fluorochroman-4-yl)pyrimidine-2,4,5-triamine | 2.01 g, 78% yield | ClC1=C(C(=NC(=N1)N)N[C@@H]1CCOC2=C(C=CC=C12)F)N | C13H13ClFN5O
